US04677115
5,6-Dihydro-4-hydroxy-5,5-dimethyl-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide
A solution of OXONE® (2.71 g, 0.0044 m) in water (15 ml) was added to a solution of 5,6-dihydro-4-hydroxy-5,5-dimethyl-4H-thieno[2,3-b]thiopyran-2-sulfonamide (0.90 g, 0.0032 m) in methanol (15 ml) over 10 minutes and the mixture was stirred at ambient temperature for 2.5 hours. The mixture was filtered, the solid was washed with methanol, and the combined filtrate and washings were concentrated in vacuo below 65° C. to remove methanol. The aqueous suspension was extracted with ethyl acetate (3×50 ml), the combined extracts were washed with water, dried over sodium sulfate and evaporated under reduced pressure to give 0.91 g (91%) of crude product which was purified by chromatography on silica gel, eluting with 10% methanol-chloroform.

reactant | OXONE | OOS(=O)[O-].[K+]
reactant | 5,6-dihydro-4-hydroxy-5,5-dimethyl-4H-thieno[2,3-b]thiopyran-2-sulfonamide | 0.90 g | OC1C2=C(SCC1(C)C)SC(=C2)S(=O)(=O)N | C9H13NO3S3
solvent | water | 15 ml | O | H2O
solvent | methanol | 15 ml | CO | CH4O
product | 5,6-Dihydro-4-hydroxy-5,5-dimethyl-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide | 0.91 g, 91% | OC1C2=C(S(CC1(C)C)(=O)=O)SC(=C2)S(=O)(=O)N | C9H13NO5S3
